US07067540B2
To an ice-cold solution of 3-hydroxymethyl benzonitrile (4.95 g, 37 mmol) in CH2Cl2 (47 mL) was added imidazole (5.1 g, 74 mmol), DMAP (0.45 g, 3.7 mmol), and TBSCl (6.2 g, 41 mmol), and the reaction mixture was stirred for 12 h. The reaction mixture was diluted with water, and the aqueous layer was extracted with CH2Cl2 (3×150 mL). The combined organics were washed with brine, dried (MgSO4), filtered, and concentrated under reduced pressure to provide 3-(tert -butyldimethylsilyloxymethyl)-benzonitrile (9.1 g, 99%) as a clear oil: 1H NMR (300 MHz, CDCl3) δ 7.51 (s, 1H), 7.42 (d, J=6 Hz, 1H), 7.35-7.28 (m, 1H), 4.75 (s, 2H), 0.94 (s, 9H), 0.11 (s, 6H)

reactant | 3-hydroxymethyl benzonitrile | 37 mmol, 4.95 g | OCC=1C=C(C#N)C=CC1 | C8H7NO
reactant | imidazole | 74 mmol, 5.1 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 41 mmol, 6.2 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | CH2Cl2 | 47 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 3.7 mmol, 0.45 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | 3-(tert -butyldimethylsilyloxymethyl)-benzonitrile | 9.1 g, 99% | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C#N)C=CC1 | C14H21NOSi
